US04537893
Preparation of Trans-(±)-2-amino-5-methyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline
About 10.8 millimole of the above hydrobromide salt were dissolved in 30 ml. of anhydrous ethanol to which had been added 1.03 g. of thiourea. The reaction was carried out and the product isolated according to the procedure of Example 1. Trans-(±)-2-amino-5-methyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline, dihydrobromide salt thus prepared was twice crystallized from methanol to yield 0.61 g. of a colorless crystalline solid melting above 235° C. TLC using 4:1 chloroform-methanol with a trace of aqueous ammonium hydroxide as the solvent system gave a single spot; Rf =0.30.

reactant | ethanol | C(C)O | C2H6O
reactant | thiourea | NC(=S)N | CH4N2S
reactant | Trans-(±)-2-amino-5-methyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline, dihydrobromide salt | Br.Br.NC=1SC2=C(C[C@@H]3CCCN([C@H]3C2)C)N1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Trans-(±)-2-amino-5-methyl-4,4a,5,6,7,8,8a,9-octahydrothiazolo[4,5-g]quinoline | NC=1SC2=C(C[C@@H]3CCCN([C@H]3C2)C)N1 | C11H17N3S
